US09382238B2
To a mixture of 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) (279 mg, 1.100 mmol) and 2-(4-bromo-2-fluorophenyl)-N-(3-(1,1,1-trifluoro-2-methylpropan-2-yl)isoxazol-5-yl)acetamide (300 mg, 0.733 mmol) in 1,4-dioxane (50 mL) was added KOAc (216 mg, 2.2 mmol) and PdCl2(dppf) (26.8 mg, 0.037 mmol) under N2. Then the mixture was stirred at 100° C. for 5 h. The mixture was filtered and the filtrate was concentrated. The crude material was purified by preparative TLC (PE/EA=3:1, Rf=0.5) to yield a yellow solid of 2-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-N-(3-(1,1,1-trifluoro-2-methylpropan-2-yl)isoxazol-5-yl)acetamide (230 mg, 0.403 mmol, 55% yield): 1H NMR (400 MHz, CDCl3) δ 8.06 (s, 1H), 7.63-7.48 (m, 2H), 7.35-7.29 (m, 1H), 6.43 (s, 1H), 3.84-3.76 (m, 2H), 1.53-1.49 (m, 6H), 1.34 (s, 9H); ES-LCMS m/z: 457 (M+H).

reactant | 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) | 1.100 mmol, 279 mg | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | 2-(4-bromo-2-fluorophenyl)-N-(3-(1,1,1-trifluoro-2-methylpropan-2-yl)isoxazol-5-yl)acetamide | 0.733 mmol, 300 mg | BrC1=CC(=C(C=C1)CC(=O)NC1=CC(=NO1)C(C(F)(F)F)(C)C)F | C15H13BrF4N2O2
reactant | KOAc | 2.2 mmol, 216 mg | CC(=O)[O-].[K+]
solvent | 1,4-dioxane | 50 mL | O1CCOCC1 | C4H8O2
catalyst | PdCl2(dppf) | 0.037 mmol, 26.8 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 2-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-N-(3-(1,1,1-trifluoro-2-methylpropan-2-yl)isoxazol-5-yl)acetamide | 0.403 mmol, 230 mg, 55% yield | FC1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)CC(=O)NC1=CC(=NO1)C(C(F)(F)F)(C)C | C21H25BF4N2O4
